US04728741
B: N-(3,5-Difluorobenzyl)-2-nitroaniline
Reaction of 2-fluoronitrobenzene (3 g, 21 mmole), 3,5-difluorobenzylamine, (3 g, 21 mmole) and triethylamine (2.6 g, 26.2 mmole) substantially as described in 1C above produced 5.6 g (100%) of title compound as orange crystals: mp 104°-105°.

reactant | 2-fluoronitrobenzene | 21 mmole, 3 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 3,5-difluorobenzylamine | 21 mmole, 3 g | FC=1C=C(CN)C=C(C1)F | C7H7F2N
reactant | triethylamine | 26.2 mmole, 2.6 g | C(C)N(CC)CC | C6H15N
product | N-(3,5-Difluorobenzyl)-2-nitroaniline | 5.6 g, 100% | FC=1C=C(CNC2=C(C=CC=C2)[N+](=O)[O-])C=C(C1)F | C13H10F2N2O2
